US04997840
A mixture of acetic anhydride (12 ml) and formic acid (8 ml) was heated at 55° for 3 hours and then cooled to ambient temperature. 4'-Chloro-2'-(methylamino)acetophenone (9.7 g) was then added and the mixture stirred at ambient temperature overnight. Water (40 ml) was added and the mixture stirred in an ice/salt bath and neutralised by adding aqueous sodium hydroxide (specific gravity 1.5, 22 ml) whilst maintaining the temperature below 30°. The reaction mixture was extracted with dichloromethane (3×50 ml) and the combined extracts were dried over magnesium sulphate to give a solution of 2'-acetyl-5'-chloro-N-methylformanilide.

reactant | acetic anhydride | 12 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 8 ml | C(=O)O | CH2O2
reactant | 4'-Chloro-2'-(methylamino)acetophenone | 9.7 g | ClC1=CC(=C(C=C1)C(C)=O)NC | C9H10ClNO
reactant | sodium hydroxide | 22 ml | [OH-].[Na+]
solvent | Water | 40 ml | O | H2O
product | 2'-acetyl-5'-chloro-N-methylformanilide | C(C)(=O)C1=C(N(C=O)C)C=C(C=C1)Cl | C10H10ClNO2
